US04528114
About 100 ml of ammonia were condensed at -78° C. under argon gasification in a sulphonation flask equipped with a gas inlet tube, dry-ice condenser and mechanical stirrer and treated with sodium metal until the blue colouration persisted. A spatula tip of iron (III) nitrate was subsequently added, the now greyish mixture was treated portionwise with 820 mg of sodium metal and the resulting mixture was stirred at -78° C. for a further 30 minutes. A solution of 1.02 g of 2-[p-(2,2-dibromovinyl)phenyl]-5-pentylpyrimidine in 10 ml of diethyl ether was added dropwise within 5 minutes, then the green-yellow mixture was stirred at -78° C. for a further 45 minutes, the ammonia was evaporated and the mixture was subsequently treated with 30 ml of saturated ammonium chloride solution and extracted three times with 50 ml of diethyl ether each time. The organic phases were washed twice with 50 ml of water each time and once with saturated sodium chloride solution, dried over magnesium sulphate and concentrated. Low-pressure chromatography (0.5 bar) of the resulting orange oil on silica gel with 10% ethyl acetate/petroleum ether gave 447 mg (71%) of 2-(p-ethynylphenyl)-5-pentylpyrimidine as colourless crystals; m.p. 72.3° C.

reactant | ammonia | 100 ml | N | H3N
reactant | sodium | [Na] | Na
reactant | sodium | 820 mg | [Na] | Na
reactant | 2-[p-(2,2-dibromovinyl)phenyl]-5-pentylpyrimidine | 1.02 g | BrC(=CC1=CC=C(C=C1)C1=NC=C(C=N1)CCCCC)Br | C17H18Br2N2
solvent | diethyl ether | 10 ml | C(C)OCC | C4H10O
catalyst | iron (III) nitrate | [N+](=O)([O-])[O-].[Fe+3].[N+](=O)([O-])[O-].[N+](=O)([O-])[O-]
product | 2-(p-ethynylphenyl)-5-pentylpyrimidine | 447 mg, 71% | C(#C)C1=CC=C(C=C1)C1=NC=C(C=N1)CCCCC | C17H18N2
